US07449475B2
(i) Ethyl 1-benzyl-4-(2-fluorobenzyl)piperidine-4-carboxylate
Ethyl 1-benzylpiperidine-4-carboxylate (2.47 g, 10 mmol) was dissolved in tetrahydrofuran (20 mL) and cooled to −78° C. Lithium bis(trimethylsilyl)amide (11 mL, 1.0 M in tetrahydrofuran) was added slowly, and stirred for 30 minutes. 2-fluoro-benzylbromide (1.34 mL, 11 mmol) in 5 mL tetrahydrofuran was added slowly. The resulting solution was allowed to reach room temperature and stirred over night. The reaction was quenched with ammonium chloride (aq, sat) and partitioned between water and ethyl acetate. The organic layer was washed with brine and dried over magnesium sulphate, filtrated and concentrated. The crude material was purified on silica (heptane/ethyl acetate), to give 2.7 g (77%) the subtitle compound as a colourless oil.

reactant | Ethyl 1-benzylpiperidine-4-carboxylate | 10 mmol, 2.47 g | C(C1=CC=CC=C1)N1CCC(CC1)C(=O)OCC | C15H21NO2
reactant | Lithium bis(trimethylsilyl)amide | 1.0 M, 11 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-fluoro-benzylbromide | 11 mmol, 1.34 mL | FC1=C(CBr)C=CC=C1 | C7H6BrF
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | Ethyl 1-benzyl-4-(2-fluorobenzyl)piperidine-4-carboxylate | 2.7 g, 77% | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)OCC)CC1=C(C=CC=C1)F | C22H26FNO2
